US06835469B2
2-Chloroquinoline (2.45 g, 15.0 mmol), o-methoxyphenylboronic acid (2.73 g, 18.0 mmol,) and potassium carbonate (5.59 g, 40.4 mmol) were dissolved in 40 mL ethylene glycol dimethyl ether and 20 mL of water. To the stirred solution was added tetrakis(triphenylphosphine)palladium(O) (1.04 g, 0.89 mmol) and the entire mixture was allowed to reflux under a N2 atmosphere for 20 hours. The cooled reaction mixture was then removed of water. Additional ethyl acetate (150 mL) was added and the solvent was washed three times using 100 mL portions of brine. The organic layer was dried with anhydrous sodium sulfate, filtered, and the solvent concentrated. The residue purified via column chromatography using 50% ethyl acetate/hexanes as the eluents to give 2-(o-methoxyphenyl)quinoline.

reactant | 2-Chloroquinoline | 15.0 mmol, 2.45 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | o-methoxyphenylboronic acid | 18.0 mmol, 2.73 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 40.4 mmol, 5.59 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethylene glycol dimethyl ether | 40 mL | COCCOC | C4H10O2
solvent | water | 20 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.89 mmol, 1.04 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-(o-methoxyphenyl)quinoline | COC1=C(C=CC=C1)C1=NC2=CC=CC=C2C=C1 | C16H13NO
